US06288120B1
Step C: N-[2-(3,5-Dichloro-phenoxy)-ethyl]-methanesulfonamide.
The title compound was prepared from 2-(3,5-dichloro-phenoxy)-ethylamine, Et3N, and methanesulfonyl chloride using the procedure described in Step 2 of Preparation A1. Recrystallization from EtOH provided the title compound. 1HNMR (400 MHz, CDCl3) δ 6.93 (m, 1H), 6.74 (m, 2H), 5.09 (m, 1H), 4.01 (t, 2H), 3.47 (q, 2H), 2.96

reactant | 2-(3,5-dichloro-phenoxy)-ethylamine | ClC=1C=C(OCCN)C=C(C1)Cl | C8H9Cl2NO
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | Et3N | CCN(CC)CC | C6H15N
product | N-[2-(3,5-Dichloro-phenoxy)-ethyl]-methanesulfonamide | ClC=1C=C(OCCNS(=O)(=O)C)C=C(C1)Cl | C9H11Cl2NO3S
